US05804585
D. N-(4-chloro-3-methyl-5-isoxazolyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 4(D) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide (0.13 g, 0.23 mmoles), methanol (6 ml) and 4N HCl (2 ml). Recrystallization from chloroform/hexanes provided 70 mg (63%) of the title compound as a white crystalline solid, m.p. 182°-184° C.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.23 mmoles, 0.13 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)C)COCCOC)C | C24H24ClN3O7S2
reactant | HCl | 4N, 2 ml | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 70 mg, 63% | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)C)C | C20H16ClN3O5S2
